US07592358B2
4.1b. 2-(4-ethynylphenoxy)ethanol
The product was obtained analogously to Example 1.1c starting from 12.20 g (52.05 mmol) of 2-(4-trimethylsilanylethynylphenoxy)ethanol. Yield: 7.70 g (91% of theoretical); C1oH10O2 (M=162.185); calc.: molpeak (M+H)+: 163; found: molpeak (M+H)+: 163; Rf value: 0.32 (silica gel, PE/EtOAc 6:4).

reactant | 2-(4-trimethylsilanylethynylphenoxy)ethanol | 52.05 mmol, 12.20 g | C[Si](C)(C)C#CC1=CC=C(OCCO)C=C1 | C13H18O2Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-ethynylphenoxy)ethanol | C(#C)C1=CC=C(OCCO)C=C1 | C10H10O2
